US07772271B2
Preparation of {4-[3-cyano-1-cyclobutyl-6-(tetrahydro-pyran-4-yloxy)-1H-indole-2-yl]-phenyl}-carbamic acid isopropyl ester (compound 2616)
To a mixture of 2-(4-amino-phenyl)-1-cyclobutyl-6-(tetrahydro-pyran-4-yloxy)-1H-indole-3-carbonitrile (897.8 mg, 2.32 mmol), K2CO3 (7 mL), and ethyl acetate (7 mL) was added iPrOCOCl (6.9 mL, 1 M in toluene, 6.96 mmol). The resulting mixture was stirred at room temperature overnight. The organic layer was washed with brine, dried over Mg2SO4, concentrated and purified on silica gel (EtOAc/hexanes, 10% to 30%) to provide the product (1.01 g, 92%) as white solid.

reactant | 2-(4-amino-phenyl)-1-cyclobutyl-6-(tetrahydro-pyran-4-yloxy)-1H-indole-3-carbonitrile | 2.32 mmol, 897.8 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1CCOCC1)C1CCC1 | C24H25N3O2
reactant | K2CO3 | 7 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | iPrOCOCl | 6.96 mmol, 1 M, 6.9 mL | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | {4-[3-cyano-1-cyclobutyl-6-(tetrahydro-pyran-4-yloxy)-1H-indole-2-yl]-phenyl}-carbamic acid isopropyl ester | 1.01 g, 92% | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1CCOCC1)C1CCC1)=O | C28H31N3O4
